datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])=[C:13]([C:14]([H:22])([H:23])[H:24])[H:21])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13]([C:14]([H:22])([H:23])[H:24])[H:21])[H:4],46.3169
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([C:15](=[S:16])[H:24])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:20])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15](=[S:16])[H:24])([H:17])([H:18])[H:19],74.4752
[C:0](=[N:1])([H:2])[H:3].[O:4]>>[C:0](#[N:1])[H:3].[H:2][O:4],-3.72376
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[I:9]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][I:9],75.5
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([O:3][O:4][H:15])[C:5]([O:6])([O:7][O:8][H:17])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([O:3][O:4][H:15])[C:5](=[O:6])[H:16])([H:9])([H:10])[H:11].[O:7][O:8][H:17],63.1784
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1][H:5])([H:3])[H:4].[S:2]([H:6])[C:7]([H:8])([H:9])[H:10],86.6506
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31][H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:22][O:30][O:31][H:32],62.751632
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])=[C:6]([H:17])[H:18])([H:9])([H:10])[H:11].[O:7][O:8][H:19],60.668
[O:0][O:1][C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],69.4544
[C:0]([C:1]([C:2]([O:3][H:12])([H:10])[H:11])([O:4][O:5])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([O:3][H:12])[H:11])([O:4][O:5][H:10])[H:9])([H:6])([H:7])[H:8],109.956
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:23]([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[H:7][C:23]([H:24])([H:25])[H:26],29.928152
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[C:6]([H:18])[H:19])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])([H:8])[H:17],44.7688
[C:0]([C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])[H:9])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([H:12])[H:13])[H:10])[H:9])([H:7])[H:8])([H:5])([H:6])[H:11],55.6472
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](#[C:9][C:10]([C:11]#[C:12][H:15])[H:14])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9]#[C:8][H:13])([C:11]#[C:12][H:15])[H:14],36.8192
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:6],9.74872
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6](=[S:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:8])([H:9])[H:10])([C:6](=[S:7])[H:12])[H:11],96.232
[C:0](=[C:1]([C:2]1[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([H:12])[H:13])[H:11])[H:10])=[C:6]([H:14])[H:15])[H:9])([H:7])[H:8],203.3424
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([C:15]([H:20])([H:21])[H:22])[C:16](=[C:17]([H:24])[H:25])[H:23])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]=[C:12]([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16](=[C:17]([H:24])[H:25])[H:23])[H:5],47.1118
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([O:12][H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[O:12][C:11]([H:13])([H:14])[H:15])[H:6])([H:4])[H:5].[H:16],197.003
